data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
1239,1354,[CH3:1]/[C:2]([Cl:3])=[C:4](/[CH3:5])[Cl:6].[CH3:7][NH:8][C:9](=[O:10])[c:11]1[o:12][c:13](=[O:14])[c-:15](-[c:16]2[cH:17][cH:18][cH:19][cH:20][cH:21]2)[n+:22]1[CH3:23]>>[CH3:1][C@:2]1([Cl:3])[C@:4]([CH3:5])([Cl:6])[C:15]2([c:16]3[cH:17][cH:18][cH:19][cH:20][cH:21]3)[C:13](=[O:14])[O:12][C:11]1([C:9]([NH:8][CH3:7])=[O:10])[N:22]2[CH3:23],water,298.15,33.42401396759352,4.4504359962015965
5120,5813,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C:15](=[NH+:16][C-:17]([C:18]([CH3:19])=[O:20])[C:21]([CH3:22])=[O:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:15]([C:13]([NH:12][CH3:11])=[O:14])([c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1)[NH:16][C:17]2([C:18]([CH3:19])=[O:20])[C:21]([CH3:22])=[O:23],water,298.15,35.98227910618336,-7.364349803332675
1661,1833,[CH3:13][NH:14][C:15](=[O:16])[CH-:17][NH+:18]=[C:19]([C:20]([CH3:21])=[O:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([CH3:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([CH3:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[C:19]([C:20]([CH3:21])=[O:22])([c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[NH:18][CH:17]3[C:15]([NH:14][CH3:13])=[O:16],water,298.15,15.746102539244967,-44.21834873152304
3737,4274,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][O:6][C:7](=[O:8])[c-:9]1[o+:10][c:11](-[c:12]2[cH:13][cH:14][cH:15][cH:16][cH:17]2)[o:18][c:19]1=[O:20]>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[C:9]2([C:7]([O:6][CH3:5])=[O:8])[O:10][C:11]1([c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1)[O:18][C:19]2=[O:20],water,298.15,21.62941332757337,-15.670937789961169
3908,4472,[CH3:10][NH:11][C:12](=[O:13])[C:14]([C:15]([CH3:16])=[O:17])=[N+:18]([CH3:19])[O-:20].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:14]([C:12]([NH:11][CH3:10])=[O:13])([C:15]([CH3:16])=[O:17])[N:18]([CH3:19])[O:20]1,water,298.15,27.1120764412535,-0.5750680221108428
2566,2847,[CH3:16][C:17](=[O:18])[CH-:19][N+:20]([CH3:21])=[CH:22][c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1([CH3:6])[C:7]#[C:8][C:9]([Br:10])([Br:11])[CH2:12][CH2:13][CH2:14][CH2:15]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([CH3:6])[C:7]2=[C:8]([C:9]([Br:10])([Br:11])[CH2:12][CH2:13][CH2:14][CH2:15]1)[CH:19]([C:17]([CH3:16])=[O:18])[N:20]([CH3:21])[CH:22]2[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1,water,298.15,11.420122411567542,-39.71980701959296
3387,3847,[CH3:10][O:11][C:12](=[O:13])[N:14]=[N+:15]([CH3:16])[NH-:17].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[NH:17][N:15]([CH3:16])[N:14]1[C:12]([O:11][CH3:10])=[O:13],water,298.15,32.272485678701955,-6.109166323078908
2392,2657,[CH3:1][C:2]1([C:3]#[N:4])[C:5]#[C:6][C:7]([c:8]2[cH:9][cH:10][cH:11][cH:12][cH:13]2)([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[CH2:20][CH2:21][CH2:22][CH2:23]1.[CH3:24][NH:25][C:26](=[O:27])[C-:28]([C:29]#[N:30])[NH+:31]=[C:32]([CH3:33])[C:34]#[N:35]>>[CH3:1][C:2]1([C:3]#[N:4])[C:5]2=[C:6]([C:7]([c:8]3[cH:9][cH:10][cH:11][cH:12][cH:13]3)([c:14]3[cH:15][cH:16][cH:17][cH:18][cH:19]3)[CH2:20][CH2:21][CH2:22][CH2:23]1)[C:28]([C:26]([NH:25][CH3:24])=[O:27])([C:29]#[N:30])[NH:31][C:32]2([CH3:33])[C:34]#[N:35],water,298.15,25.234778512655765,-32.41877148342107
3446,3923,[CH3:6][N-:7][NH+:8]=[C:9]([C:10](=[O:11])[NH:12][CH3:13])[C:14](=[O:15])[O:16][CH3:17].[NH2+:1]=[C:2]([NH2:3])[NH:4][CH3:5]>>[NH2+:1]1[C:2]([NH2:3])([NH:4][CH3:5])[C:9]([C:10](=[O:11])[NH:12][CH3:13])([C:14](=[O:15])[O:16][CH3:17])[NH:8][N:7]1[CH3:6],water,298.15,63.63179090728779,59.71521115205351
456,498,[CH3:11][CH:12]=[NH+:13][N-:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1.[CH3:1][O:2][C:3]1=[C:4]([Cl:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][O:2][C:3]1=[C:4]([Cl:5])[CH:6]2[CH:7]3[CH:8]([CH:9]1[O:10]2)[CH:12]([CH3:11])[NH:13][N:14]3[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1,water,298.15,14.49223928886432,-34.94355404550714
4443,5075,[CH3:10][O:11][C:12](=[O:13])[CH:14]=[N+:15]([CH3:16])[C-:17]([C:18]#[N:19])[C:20](=[O:21])[O:22][CH3:23].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:17]([C:18]#[N:19])([C:20](=[O:21])[O:22][CH3:23])[N:15]([CH3:16])[CH:14]1[C:12]([O:11][CH3:10])=[O:13],water,298.15,18.588039361731827,-15.402549598856282
